US05643922
Step 2. E-1-(1-pyrrolidinyl)-2-[2-nitro-4-(4-fluorophenoxy)phenyl]ethylene
2-Nitro-4-(4-fluorophenoxy)toluene (11.8 g, 47.7 mmol), was dissolved in dimethylformamide (90.0 mL) under N2 atmosphere. Dimethylformamide dimethyl acetal (20.2 mL, 143 mmol), and pyrrolidine (4.0 mL, 47.4 mmol) were added via syringe and the reaction mixture was heated at 110° C. for 3 hours. The reaction mixture was cooled to ambient temperature and partitioned between H2O and ether. The organic phase was washed with H2O. The combined aqueous extracts were washed with ether. The ether extracts were combined and dried over Na2SO4, filtered, and concentrated in vacuo to give a viscous oil (16.1 g) which was used without further purification.

reactant | 2-Nitro-4-(4-fluorophenoxy)toluene | 47.7 mmol, 11.8 g | [N+](=O)([O-])C1=C(C=CC(=C1)OC1=CC=C(C=C1)F)C | C13H10FNO3
reactant | Dimethylformamide dimethyl acetal | 143 mmol, 20.2 mL | COC(N(C)C)OC | C5H13NO2
reactant | pyrrolidine | 47.4 mmol, 4.0 mL | N1CCCC1 | C4H9N
solvent | dimethylformamide | 90.0 mL | CN(C=O)C | C3H7NO
product | E-1-(1-pyrrolidinyl)-2-[2-nitro-4-(4-fluorophenoxy)phenyl]ethylene | 16.1 g | N1(CCCC1)\C=C\C1=C(C=C(C=C1)OC1=CC=C(C=C1)F)[N+](=O)[O-] | C18H17FN2O3
